US08536176B2
(4) 5-[1-(5-Isopropyl-1,2,4-oxadiazol-3-yl)piperidin-4-yl]-2-(4-methanesulfonylphenoxymethyl)pyridine
A solution of N-hydroxy-4-[2-(4-methanesulfonylphenoxymethyl)pyridin-5-yl]piperidin-1-carboxamidine (98 mg, 0.242 mmol), isobutyric acid (22 μL, 0.242 mmol) and 1-hydroxybenzotriazole monohydrate (41 mg, 0.267 mmol) in N,N-dimethylformamide (2 mL) was cooled in an ice bath followed by the addition of N,N-diisopropylethylamine (0.14 mL, 0.800 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (55 mg, 0.291 mmol). The mixture was stirred at room temperature overnight, poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. A suspension of the residue in toluene (4 mL) was refluxed for 2 hours, allowed to cool to room temperature and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/2→1/5) to give a crystal. The crystal was recrystallized from ethyl acetate/hexane to give the title compound as a white crystal (59 mg, yield 53%).

reactant | N-hydroxy-4-[2-(4-methanesulfonylphenoxymethyl)pyridin-5-yl]piperidin-1-carboxamidine | 0.242 mmol, 98 mg | ONC(=N)N1CCC(CC1)C=1C=CC(=NC1)COC1=CC=C(C=C1)S(=O)(=O)C | C19H24N4O4S
reactant | isobutyric acid | 0.242 mmol, 22 μL | C(C(C)C)(=O)O | C4H8O2
reactant | 1-hydroxybenzotriazole monohydrate | 0.267 mmol, 41 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 0.800 mmol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.291 mmol, 55 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 5-[1-(5-Isopropyl-1,2,4-oxadiazol-3-yl)piperidin-4-yl]-2-(4-methanesulfonylphenoxymethyl)pyridine | 59 mg, yield 53% | C(C)(C)C1=NC(=NO1)N1CCC(CC1)C=1C=CC(=NC1)COC1=CC=C(C=C1)S(=O)(=O)C | C23H28N4O4S
